US07238808B2
A mixture of 4-difluoromethyl-8-iodo-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine (2.45 g, 5.58 mmol), trimethylsilylacetylene (1.24 ml, 8.94 mmol) and triethylamine (2.08 ml, 14.9 mmol) in N,N-dimethylformamide (10 ml) was stirred for 10 min at room temperature while being purged with Argon, then PdCl2(PPh3)2 (105 mg, 0.15 mmol), PPh3 (78 mg, 0.3 mmol) and CuI (9 mg, 0.05 mmol) were added. Stirring was continued at 90° C. for 5 h. The reaction mixture was cooled to room temperature, diluted with ice-water (50 mL) and extracted with ethyl acetate (3×70 ml). The combined organic layers were washed with water (40 ml) and brine (40 ml), dried (MgSO4) and evaporated to give 4-difluoromethyl-2-(4-trifluoromethyl-phenyl)-8-trimethylsilanylethynyl-imidazo[1,5-a]pyrimidine (1.58 g, 69%) as a brown solid, which was dissolved in THF (15 ml) and MeOH (15 ml), while stirring at 0° C. potassium carbonate (51 mg, 0.37 mmol) was added and the mixture was stirred at 0° C. for 5 h. The mixture was diluted with ice water (50 ml) and extracted with TBME (2×80 ml). The combined organic layers were washed with brine (50 ml), dried (MgSO4) and evaporated. The crude product was further purified by flash chromatography on silica gel (heptane/EtOAc) followed by crystallization from diethyl ether/hexane to give 4-difluoromethyl-8-ethynyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine (0.61 g, 49%) as a brown solid. MS (EI) 337.1 [(M)+]; mp 135° C.

reactant | 4-difluoromethyl-8-iodo-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine | 5.58 mmol, 2.45 g | FC(C1=CC(=NC=2N1C=NC2I)C2=CC=C(C=C2)C(F)(F)F)F | C14H7F5IN3
reactant | trimethylsilylacetylene | 8.94 mmol, 1.24 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 14.9 mmol, 2.08 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.15 mmol, 105 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.05 mmol, 9 mg | [Cu]I
catalyst | PPh3 | 0.3 mmol, 78 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 4-difluoromethyl-2-(4-trifluoromethyl-phenyl)-8-trimethylsilanylethynyl-imidazo[1,5-a]pyrimidine | 1.58 g, 69% | FC(C1=CC(=NC=2N1C=NC2C#C[Si](C)(C)C)C2=CC=C(C=C2)C(F)(F)F)F | C19H16F5N3Si
